US04824840
2.0 grams of 5-{3-[4-(2-acetyloxyethyl)-piperazinyl]propoxy}-3,4-dihydrocarbostyril are mixed with 30 ml of methanol and 5 ml of concentrated hydrochloric acid and heated for 2 hours under refluxing conditions. The reaction mixture is concentrated under reduced pressure to dryness. The residue is recrystallized from water to obtain 5-{3-[4-(2-hydroxyethyl)piperazinyl]propoxy}-3,4-dihydrocarbostyril in the form of colorless flake-like crystals with a melting point of 158°-159° C.

reactant | 5-{3-[4-(2-acetyloxyethyl)-piperazinyl]propoxy}-3,4-dihydrocarbostyril | 2.0 grams | C(C)(=O)OCCN1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C20H29N3O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-{3-[4-(2-hydroxyethyl)piperazinyl]propoxy}-3,4-dihydrocarbostyril | OCCN1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C18H27N3O3
